US06670373B1
In a fashion similar to that described for preparation 15, 2-fluoro-4-bromo-benzoyl chloride oxime (2.00 g, 7.92 mmol), ethyl-2-butynoate (1.33 g, 11.9 mmol), triethylamine (2.2 ml, 15.8 mmol) in diethyl ether (10 ml), and diethyl ether (20 ml) gave 4-ethoxycarbonyl-5-methyl-3-(2-fluoro-4-bromophenyl)isoxazole (2.16 g, 83%) after column chromatography (silica gel, hexanes/diethyl ether gradient). 1H NMR (400 MHz, CDCl3) δ 7.36-7.29 (m, 3H), 4.16 (q, 2H, J=6.8 Hz), 2.70 (s, 3H), 1.15 (t, 3H, J=6.9 Hz)ppm.

reactant | 2-fluoro-4-bromo-benzoyl chloride oxime | 7.92 mmol, 2.00 g | FC1=C(C(Cl)=NO)C=CC(=C1)Br | C7H4BrClFNO
reactant | ethyl-2-butynoate | 11.9 mmol, 1.33 g | C(C)OC(C#CC)=O | C6H8O2
reactant | triethylamine | 15.8 mmol, 2.2 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-ethoxycarbonyl-5-methyl-3-(2-fluoro-4-bromophenyl)isoxazole | 2.16 g, 83% | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=C(C=C1)Br)F | C13H11BrFNO3
